Test Harness  for sky130_vsdbuf_2x
.include 'sky130nm.lib' 
.include 'custom_stdcell/buf_2x/buf2.spice'
    .options savecurrents 
    X1 A Y VPWR VPB VGND sky130_vsdbuf_2x
    * Power Supplies
    VVPWR VPWR 0 DC 1.8
VVPB VPB 0 DC 1.8
VVGND VGND 0 DC 0
    * Signal Supplies
    VA A 0 PULSE(0 1.8 0 0.01n 0.01n 50ns 100ns)

    * CLoad 
    CLoad Y 0 1f
    * Control Generations
    .control
    foreach case 1.8 0
    if $case=0
        * Fall Condition
        reset
        alter @VA[PWL] = [ 0 1.8 1.25n 0.9 2.5n 0 ]
        tran 0.01n 2.5n
        run
        let fall_caps = abs(avg(vA#branch))*2.5n/(1.8)
        let fall_cap = fall_caps[length(fall_caps)-1]/1p
        echo "A:fall_capacitance:$&fall_cap" >> custom_stdcell/buf_2x/data/input_caps/input_pins_caps.txt
    else
        * Rise Condition
        reset
        alter @VA[PWL] = [ 0ns 0 1.25ns 0.9 2.5ns 1.8 ]
        tran 0.01n 2.5n
        run
        let rise_caps = abs(avg(vA#branch))*2.5n/(1.8)
        let rise_cap = rise_caps[length(rise_caps)-1]/1p
        echo "A:rise_capacitance:$&rise_cap" >> custom_stdcell/buf_2x/data/input_caps/input_pins_caps.txt 
    end
    end
    rusage
    quit
    .endc